US06093696
α-Methyl-L-tyrosine methyl ester hydrochloride
Anhydrous hydrogen chloride was bubbled through a solution of α-methyl-L-tyrosine (1 g, 5.13 mmol) in methanol (100 ml) for a few minutes and the solution stirred at room temeprature for 48 h. The solvent was evaporated in vacuo and the residue freeze dried from a mixture of methanol and water to give the title compound as a white powder (1.28 g, 100%); δH (CD3OD) 7.00 (2H, d, J 8.6 Hz, ArH), 6.78 (2H, d, J 8.6 Hz, ArH), 3.82 (3H, s, CO2CH3), 3.19 (1H, d, J 14.3 Hz, CHAHBAr), 3.01 (1H, d, J 14.3 Hz, CHAHBAr) and 1.59 (3H, s, CCH3); m/z (ES, 27V) 210 (M+ +1).

reactant | hydrogen chloride | Cl | ClH
reactant | α-methyl-L-tyrosine | 5.13 mmol, 1 g | C[C@](N)(CC1=CC=C(C=C1)O)C(=O)O | C10H13NO3
reactant | methanol | 100 ml | CO | CH4O
product | α-Methyl-L-tyrosine methyl ester hydrochloride | 1.28 g, 100% | Cl.COC([C@@](N)(CC1=CC=C(C=C1)O)C)=O | InChI=1S/C11H15NO3.ClH/c1-11(12,10(14)15-2)7-8-3-5-9(13)6-4-8;/h3-6,13H,7,12H2,1-2H3;1H/t11-;/m0./s1
